Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Quinine
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ history of 1 month abdominal pain. 

Patient with extensive work-up at ___ 
including negative CT scan and RUQ ultrasound. Had UTI in ___ 
with 7 day course of cipro. Patient with bilateral upper 
abdominal pain along costal margin. No chest pain, shortness of 
breath, nausea vomiting or diarrhea. No abnormalities in bowel 
movements. Has general muscle aches. No dysuria. No polyuria. 
History of 3 ticks throughout this past ___. First lyme was 
negative and second lyme titer from ___ positive from medical 
records from ___.
 
  
In the ED, initial vs were: 99.4 85 145/83 20 100% RA . Labs 
were remarkable for elevated lipase 66. Patient was given 1g IV 
ceftriaxone. Vitals on Transfer: 83 132/66 16 100% RA 
  
  

 
Past Medical History:
None
 
Social History:
___
Family History:
none
 
Physical Exam:
Temp: 98.2 HR: 85 BP: 145/83 Resp: 18 O(2)Sat: 100 room air
Normal
 
Constitutional: Comfortable
HEENT: Extraocular muscles intact and normal pupils, and no
ptosis
Pharynx is normal without goiter
Chest: Clear to auscultation. 
Cardiovascular: Normal first and second heart sounds
without murmur. No rubs
Abdominal: Soft, Nontender and without mass
GU/Flank: No costovertebral angle tenderness
Extr/Back: No edema
Skin: Warm and dry
Neuro: Speech fluent. Cn II-XII grossly intact
 

EXAM ON DISCHARGE:
Constitutional: Comfortable
HEENT: Extraocular muscles intact and normal pupils, and no
ptosis
Pharynx is normal without goiter
Chest: Clear to auscultation. 
Cardiovascular: Normal first and second heart sounds
without murmur. No rubs. Pain free
Abdominal: Soft, Nontender and without mass
GU/Flank: No costovertebral angle tenderness
Extr/Back: No edema
Skin: Warm and dry
Neuro: Speech fluent. Cn II-XII grossly intact
 
 
Pertinent Results:
ADMISSION LABS

___ 08:50AM URINE  MUCOUS-RARE
___ 08:50AM URINE  RBC-0 WBC-2 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 08:50AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-TR
___ 08:50AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:00AM   PLT COUNT-354
___ 09:00AM   NEUTS-78.3* LYMPHS-16.3* MONOS-3.8 EOS-1.0 
BASOS-0.6
___ 09:00AM   WBC-10.8 RBC-5.12 HGB-14.4 HCT-42.4 MCV-83 
MCH-28.1 MCHC-34.0 RDW-12.5
___ 09:00AM   ALBUMIN-4.7
___ 09:00AM   cTropnT-<0.01
___ 09:00AM   ALT(SGPT)-17 AST(SGOT)-21 ALK PHOS-108* TOT 
BILI-0.4
___ 09:00AM   estGFR-Using this
___ 09:00AM   GLUCOSE-112* UREA N-15 CREAT-0.6 SODIUM-131* 
POTASSIUM-3.9 CHLORIDE-94* TOTAL CO2-26 ANION GAP-15
___ 09:15AM   LACTATE-0.9

STUDIES
CXR : FINDINGS:  No previous images.  The cardiac silhouette is 
within normal limits 
and there is no evidence of vascular congestion, pleural 
effusion, acute 
pneumonia, or pericardial effusion 

EKG:
New T wave inversions in inferior leads
No AV block

ECHO:
The left atrium and right atrium are normal in cavity size. The 
estimated right atrial pressure is ___ mmHg. Left ventricular 
wall thickness, cavity size and regional/global systolic 
function are normal (LVEF >65%). Right ventricular chamber size 
and free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis. Trace aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. There is 
no mitral valve prolapse. Physiologic mitral regurgitation is 
seen (within normal limits). There is a trivial/physiologic 
pericardial effusion. 

IMPRESSION: Normal biventricular cavity sizes with preserved 
global and regional biventricular systolic function. 

DISCHARGE LABS:

___ 06:05AM BLOOD WBC-6.4 RBC-4.43 Hgb-12.6 Hct-36.9 MCV-83 
MCH-28.5 MCHC-34.2 RDW-12.6 Plt ___
___ 01:40PM BLOOD Glucose-85 UreaN-12 Creat-0.6 Na-134 
K-3.9 Cl-100 HCO3-25 AnGap-___ history of 2 weeks of abdominal pain, three tick bites, 
migratory arthropathies, headaches,new EKG changes and positive 
lyme serologies from OSH consistent with lyme disease
  
#ABDOMINAL PAIN: Likely Lyme myocarditis as per OSH report.   
Lyme serologies from osh being positive associated with 
migrating arthropathies, new EKG changes and headache all tie in 
with lyme disease and lyme myocarditis. Anaplasma and babesiosis 
testing were done in the OSH all of which were negative.  Daily 
EKGs were done which showed no AV block.  She did have T wave 
inversion in inferior leads but cardia bio-markers were 
negative.  An ECHO done showed no wall motion abnormalities. 
Given her EKG lacked classic features of Lyme carditis (e.g. AV 
block), her advanced age, and TWI concerning for ischemia, 
cardiology was consulted to evaluate the potential for ischemia. 
 Cardiology felt her findings were all consistent with lyme 
myocarditis and that patient did not require a stress ECHO to 
further work-up her EKG changes. Patient was managed with IV 
ceftriaxone and switched over to oral doxycycline at time of 
discharge.  She will continue her antibiotics for three weeks. 
She was managed with Ibuprofen 600mg TID for pain control.

TRANSITIONAL ISSUES:
-please ensure completion of antibiotics for three weeks 
duration.
-please advise patient re:sun sensitivity with doxycycline
-please ensure rest and limited activity until pain subsides
-please ensure patient knows to report to PCP/ED if worsening 
chest pain
 
Medications on Admission:
None
 
Discharge Medications:
1. Ibuprofen 600 mg PO TID pain 
Please take this with omeprazole 
RX *ibuprofen 600 mg 1 tablet(s) by mouth three times a day Disp 
#*21 Tablet Refills:*0
2. Omeprazole 20 mg PO DAILY Duration: 2 Weeks 
RX *omeprazole 20 mg 1 capsule,delayed ___ by 
mouth once daily Disp #*14 Capsule Refills:*0
3. Doxycycline Hyclate 100 mg PO Q12H lyme Duration: 21 Days 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth every 12 
hours Disp #*36 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lyme pericarditis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___, 

It was a pleasure having you here at the ___ 
___.  You were admitted here with abdominal pain and 
found to have lyme pericarditis.  You were managed with IV 
ceftriaxone and were switched to oral doxycycline for a duration 
of 3 weeks. Please continue your antibiotics until ___. 
Please be aware that doxycycline can give you increased 
susceptibility to sun burn. Be sure to stay out of direct sun 
light, use plenty of sun block and wear long pants and sleeves 
for the duration of your treatment with doxycycline. Please keep 
your follow up appointments below.  You also had an ECHO ( 
ultrasound of the heart) which was normal.  The cardiology team 
assessed you and agreed with our treatment plan. Please ensure 
you do not exert yourself too much until you have completed 
treatment.  If you do have worsening chest pain after treatment, 
please report to your PCP or other doctor immediately.
 
Followup Instructions:
___